2145-02-20 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2145-2-19**] 04:56 PM
 PICC LINE - START [**2145-2-19**] 05:02 PM
   - Got 2L D51/2NS, then D5W w/ 3 amps bicarb X1L, finally D5NS with K
   - Insulin gtt
   - AG 21 by 11pm (has uremia, CKD at baseline)
   - pRBC X1 given Hct 20
   - Metoprolol 10mg q6 IV started given unable to take PO antihtn meds
   - HD tomorrow
   .
   Feeling much better this morning - would like to try PO and lantus.
   Then consider discontinuing insulin gtt
   .
   Had episode of hypertensive urgency to SBP230s. Responded to home PO
   medications + 20mg IV Hydralazine and 10mg IV Lopressor
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 1 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-2-19**] 08:32 PM
   Morphine Sulfate - [**2145-2-19**] 10:41 PM
   Metoprolol - [**2145-2-20**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-20**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98.1
   HR: 96 (88 - 106) bpm
   BP: 143/72(90) {125/67(85) - 235/114(129)} mmHg
   RR: 14 (0 - 30) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,816 mL
                                                                  1,079 mL
   PO:
             360 mL
   TF:
   IVF:
                                                                  2,816 mL
                                                                    719 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                      0 mL
   Urine:
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,166 mL
                                                                  1,079 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///20/
   Physical Examination
   Flat affect
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   233 K/uL
   8.0 g/dL
   80 mg/dL
   14.3 mg/dL
   20 mEq/L
   4.0 mEq/L
   85 mg/dL
   111 mEq/L
   144 mEq/L
   23.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
   WBC
   8.1
   6.0
   7.1
   Hct
   20.8
   21.3
   23.9
   Plt
   [**Telephone/Fax (3) 11599**]
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Differential-Neuts:68.5 %, Lymph:24.7 %, Mono:5.3 %,
   Eos:1.1 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 1811**] is a 32 yo man with HTN, DM 1 c/b gastroparesis, and CKD in
   work-up for HD, who p/w abdominal pain and N/V/D x 2 days, found to
   have worsened renal failure and AG metabolic acidosis with concern for
   DKA.
   # Anion gap metabolic acidosis
 DKA: Increase above baseline on
   presentation probably due to uremia in setting of dehydration. It
   slightly improved s/p 2L IVF near baseline gap of 19. On admission to
   MICU, BS is elevated and there was concern for DKA in addition to
   uremia. Lactate is normal.
   - Patient received IVF, bicarb, insulin drip and ultimately closed his
   Anion Gap (as much as could be expected in patient with CKD) by 7am
   today
   - Discontinue insulin gtt
 long acting insulin + sliding scale, will
   discuss this with [**Last Name (un) 276**]
   - Will recheck serum electrolytes and anion gap this evening
   # N/V/D, abdominal pain: Given low grade fever and acute onset, most
   c/w viral gastroenteritis although possible that this is exacerbated by
   uremia. Also pt has a hx of gastroparesis. Abd exam nonfocal but with
   tenderness. Lipase is normal. Mild elevation of LFTs. Patient no
   currently having diarrhea
   - IVF as long at pt does not become tachypnic
 may be able to
   discontinue today and encourage PO fluids
   - Advance patient
s diet as tolerated and encourage PO fluids
   - Zofran prn
   - Morphine prn for pain control
   - Follow-up on Cdiff studies
   # DM:  BS elevated with AG, concern initially  for DKA.
   - Will resume glargine and insulin sliding scale, discontinue insulin
   gtt per above
   - Appreciate [**Last Name (un) 276**] following
   # Acute on chronic renal failure: Pt already ESRD and likely is
   prerenal in setting of profuse N/V/D. However this may be presentation
   of uremia. Received 2L IVF in ED and 5 liters in the MICU, but need to
   be careful due to renal function.
   - Social Work consult for coping with initiation of dialysis and
   chronic disease (DM1)
   - Monitor Cr
   - Cont calcitriol and calcium acetate
   - Renally dose all meds and avoid nephrotoxins
   - Renal aware and will start hemodialysis for patient today
   - transplant surgery aware
   - consider more lasix if pt becomes SOB
   # Anemia: Hct 20, mildly below baseline of 25. Thought to be
   combination of iron deficiency and CKD. Pt denies any blood in emesis
   or stools.
   - Guaiac all stools
   - Cont iron supplement
   - Trend Hct with PM hct
   - Hold specimen ordered; transfuse for Hct <21
   - two units crossmatched
   # HTN: Poorly controlled. [**Month (only) 60**] be in setting of acute discomfort; also
   unable to tolerate home meds yesterday. Was restarted on home
   medications but persistently hypertensive likely in setting of anxiety,
   significant volume overload from fluids yesterday and uremia, chronic
   kidney disease
   - Continue home BP meds of metoprolol and amlodipine, will add
   additional agents PRN
   # Sinus tachycardia: Likely combination of discomfort and dehydration.
   No concerning findings on EKG.  Also could not tolerate his PO BB.
   - Supportive care as above
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 DIABETIC KETOACIDOSIS (DKA)
 HYPERTENSION, BENIGN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 NAUSEA / VOMITING
 DIARRHEA
   ICU Care
   Nutrition: Diabetic, renal diet
   Glycemic Control:  Fixed and insulin sliding sclae
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: MICU for now

2145-02-20 11:23:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: DKA, worsening renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NASAL SWAB - At [**2145-2-19**] 04:56 PM
 PICC LINE - START [**2145-2-19**] 05:02 PM
 Fluid resuscitation
 Less N/V this morning
 Less abd pain
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2145-2-19**] 10:41 PM
   Pantoprazole (Protonix) - [**2145-2-20**] 08:25 AM
   Heparin Sodium (Prophylaxis) - [**2145-2-20**] 08:25 AM
   Metoprolol - [**2145-2-20**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-20**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.8
C (98.3
   HR: 85 (85 - 106) bpm
   BP: 204/101(122) {125/67(85) - 235/114(138)} mmHg
   RR: 18 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,816 mL
                                                                  1,739 mL
   PO:
             600 mL
   TF:
   IVF:
                                                                  2,816 mL
                                                                  1,139 mL
   Blood products:
   Total out:
                                                                    650 mL
                                                                    300 mL
   Urine:
                                                                    650 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,166 mL
                                                                  1,439 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   233 K/uL
   80 mg/dL
   14.3 mg/dL
   20 mEq/L
   4.0 mEq/L
   85 mg/dL
   111 mEq/L
   144 mEq/L
   23.9 %
   7.1 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
   WBC
   8.1
   6.0
   7.1
   Hct
   20.8
   21.3
   23.9
   Plt
   [**Telephone/Fax (3) 11599**]
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Differential-Neuts:68.5 %, Lymph:24.7 %, Mono:5.3 %,
   Eos:1.1 %, Ca++:8.2 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
   -FSG SSRI
 DEPRESSION
 DIABETIC KETOACIDOSIS (DKA)
   -gap diminished
   -underlying inc gap due to renal failure
   -transition for isulin gtt to sc
 HYPERTENSION, BENIGN
   -requiring hydralazine dosing
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -AV fistula placed
   -initiation of dialysis likely later today
   -renal following
 NAUSEA / VOMITING
   -much improved
   -? DKA related vs. underlying gastroparesis
 DIARRHEA
   -resolved
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2145-02-21 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-2-20**] 09:45 AM
 EKG - At [**2145-2-21**] 06:05 AM
   [**2-21**]:
   - Had anti-HTNives pushed up at 0200, 0300 for SBPs > 190
   - For abdominal pain: Had EKG (no ischemia), morphine
   - For BS 436 had insulin 14 units plus his lantus 14 units
   - SBP again above 200 at 0730
   - Refusing Calcium capsules b/c too big
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2145-2-20**] 09:40 PM
   Hydralazine - [**2145-2-21**] 01:00 AM
   Morphine Sulfate - [**2145-2-21**] 05:25 AM
   Pantoprazole (Protonix) - [**2145-2-21**] 07:16 AM
   Metoprolol - [**2145-2-21**] 07:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-21**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 95 (85 - 98) bpm
   BP: 201/99(122) {168/64(95) - 227/112(138)} mmHg
   RR: 27 (0 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,162 mL
                                                                    385 mL
   PO:
                                                                    890 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,272 mL
                                                                     85 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    150 mL
   Urine:
                                                                    500 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   190 K/uL
   7.5 g/dL
   436 mg/dL
   11.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   65 mg/dL
   100 mEq/L
   135 mEq/L
   23.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
   WBC
   8.1
   6.0
   7.1
   5.4
   Hct
   20.8
   21.3
   23.9
   23.0
   Plt
   [**Telephone/Fax (3) 11612**]90
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   14.5
   11.5
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   134
   436
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Differential-Neuts:68.5 %, Lymph:24.7 %, Mono:5.3 %,
   Eos:1.1 %, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 HYPERTENSION, BENIGN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 NAUSEA / VOMITING
 DIARRHEA
   Mr. [**Known lastname 1811**] is a 32 yo man with HTN, DM 1 c/b gastroparesis, and CKD in
   work-up for HD, who p/w abdominal pain and N/V/D x 2 days, found to
   have worsened renal failure and AG metabolic acidosis with concern for
   DKA.
   # Anion gap metabolic acidosis
 DKA: Increase above baseline on
   presentation probably due to uremia in setting of dehydration. It
   slightly improved s/p 2L IVF near baseline gap of 19. On admission to
   MICU, BS is elevated and there was concern for DKA in addition to
   uremia. Lactate is normal.
   - Patient received IVF, bicarb, insulin drip and ultimately closed his
   Anion Gap (as much as could be expected in patient with CKD) by 7am
   today
   - Discontinue insulin gtt
 long acting insulin + sliding scale, will
   discuss this with [**Last Name (un) 276**]
   - Will recheck serum electrolytes and anion gap this evening
   # N/V/D, abdominal pain: Given low grade fever and acute onset, most
   c/w viral gastroenteritis although possible that this is exacerbated by
   uremia. Also pt has a hx of gastroparesis. Abd exam nonfocal but with
   tenderness. Lipase is normal. Mild elevation of LFTs. Patient no
   currently having diarrhea
   - IVF as long at pt does not become tachypnic
 may be able to
   discontinue today and encourage PO fluids
   - Advance patient
s diet as tolerated and encourage PO fluids
   - Zofran prn
   - Morphine prn for pain control
   - Follow-up on Cdiff studies
   # DM:  BS elevated with AG, concern initially  for DKA.
   - Will resume glargine and insulin sliding scale, discontinue insulin
   gtt per above
   - Appreciate [**Last Name (un) 276**] following
   # Acute on chronic renal failure: Pt already ESRD and likely is
   prerenal in setting of profuse N/V/D. However this may be presentation
   of uremia. Received 2L IVF in ED and 5 liters in the MICU, but need to
   be careful due to renal function.
   - Social Work consult for coping with initiation of dialysis and
   chronic disease (DM1)
   - Monitor Cr
   - Cont calcitriol and calcium acetate
   - Renally dose all meds and avoid nephrotoxins
   - Renal aware and will start hemodialysis for patient today
   - transplant surgery aware
   - consider more lasix if pt becomes SOB
   # Anemia: Hct 20, mildly below baseline of 25. Thought to be
   combination of iron deficiency and CKD. Pt denies any blood in emesis
   or stools.
   - Guaiac all stools
   - Cont iron supplement
   - Trend Hct with PM hct
   - Hold specimen ordered; transfuse for Hct <21
   - two units crossmatched
   # HTN: Poorly controlled. [**Month (only) 60**] be in setting of acute discomfort; also
   unable to tolerate home meds yesterday. Was restarted on home
   medications but persistently hypertensive likely in setting of anxiety,
   significant volume overload from fluids yesterday and uremia, chronic
   kidney disease
   - Continue home BP meds of metoprolol and amlodipine, will add
   additional agents PRN
   # Sinus tachycardia: Likely combination of discomfort and dehydration.
   No concerning findings on EKG.  Also could not tolerate his PO BB.
   - Supportive care as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-02-21 09:04:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: DKA, renal failure/initiation of hemodialysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2145-2-20**] 09:45 AM
 EKG - At [**2145-2-21**] 06:05 AM
   -insulin drip started for inc blood sugars
   -hypertension - antiHTN meds titrated
   -abd pain (chronic)
   -dialysis yesterday 1L fluid removed
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2145-2-21**] 01:00 AM
   Morphine Sulfate - [**2145-2-21**] 05:25 AM
   Pantoprazole (Protonix) - [**2145-2-21**] 07:16 AM
   Metoprolol - [**2145-2-21**] 07:16 AM
   Heparin Sodium (Prophylaxis) - [**2145-2-21**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-21**] 09:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 94 (85 - 98) bpm
   BP: 180/94(112) {168/64(95) - 227/112(138)} mmHg
   RR: 27 (0 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,162 mL
                                                                    613 mL
   PO:
                                                                    890 mL
                                                                    420 mL
   TF:
   IVF:
                                                                  1,272 mL
                                                                    193 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    150 mL
   Urine:
                                                                    500 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    662 mL
                                                                    463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///19/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   190 K/uL
   436 mg/dL
   11.5 mg/dL
   19 mEq/L
   4.4 mEq/L
   65 mg/dL
   100 mEq/L
   135 mEq/L
   23.0 %
   5.4 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
   WBC
   8.1
   6.0
   7.1
   5.4
   Hct
   20.8
   21.3
   23.9
   23.0
   Plt
   [**Telephone/Fax (3) 11612**]90
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   14.5
   11.5
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   134
   436
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Differential-Neuts:68.5 %, Lymph:24.7 %, Mono:5.3 %,
   Eos:1.1 %, Ca++:7.3 mg/dL, Mg++:1.5 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
   -girlfriend brought in [**Name (NI) 11613**] around midnight with subsequent worsening
   glycemic control
   -required restart insulin gtt for glycemic control after the meal
   -discuss importance of diet with patient
   -transition for isulin gtt to sc once bs stable

 DEPRESSION
   -depressed affect

 DIABETIC KETOACIDOSIS (DKA)
   -gap at baseline ~20
   -underlying inc gap due to renal failure - but should be improving with
   initiation of dialysis
   -check urine ketones
 HYPERTENSION, BENIGN
   -requiring hydralazine dosing
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -AV fistula placed
   -dialysis initiated yesterday - tolerated well
   -renal following
 NAUSEA / VOMITING
   -much improved
   -? DKA related vs. underlying gastroparesis
 DIARRHEA
   -resolved
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2145-02-22 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Had anti-HTNives pushed up at 0200, 0300 for SBPs > 190
   - For abdominal pain: Had EKG (no ischemia), morphine
   - For BS 436 had insulin 14 units plus his lantus 14 units, placed on
   insulin gtt, then BS to 130s so [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] the drip was stopped
   - [**Last Name (un) 276**] recs- stop gtt, increase SSI by 2 units (except bedtime
   scale), use dinner scale if pt eats at bedtime
   - SBP again above 200 at 0730
   - Refusing Calcium capsules b/c too big
   - renal recs- Metoprolol 100mg [**Hospital1 **], no extra IVF, HD tomorrow, check
   cxr, given lasix 80mg IV x 1
   - Did not want dinner, then girlfriend requesting to get him pizza at
   2100. Suggested she give him more bland food such as apple sauce or
   [**Location (un) **] crackers instead. Evening fingersticks between 66-219
   - C. Diff sent
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2145-2-21**] 10:01 AM
   Furosemide (Lasix) - [**2145-2-21**] 02:15 PM
   Morphine Sulfate - [**2145-2-21**] 03:29 PM
   Dextrose 50% - [**2145-2-21**] 03:43 PM
   Heparin Sodium (Prophylaxis) - [**2145-2-21**] 10:02 PM
   Metoprolol - [**2145-2-21**] 10:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 80 (80 - 94) bpm
   BP: 152/82(97) {140/76(89) - 184/106(124)} mmHg
   RR: 14 (12 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,595 mL
                                                                     74 mL
   PO:
                                                                  1,280 mL
             TF:
   IVF:
                                                                  1,302 mL
                                                                     74 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    600 mL
   Urine:
                                                                    600 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                   -526 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   7.4 g/dL
   44 mg/dL
   11.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   70 mg/dL
   104 mEq/L
   139 mEq/L
   22.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
                             [**2145-2-21**]  12:01 PM
                             [**2145-2-21**]  06:33 PM
                             [**2145-2-22**]  03:32 AM
   WBC
   8.1
   6.0
   7.1
   5.4
   6.2
   5.3
   Hct
   20.8
   21.3
   23.9
   23.0
   23.1
   22.5
   Plt
   [**Telephone/Fax (3) 11612**]90
   206
   180
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   14.5
   11.5
   11.8
   11.6
   11.5
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   134
   436
   169
   98
   44
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Amylase / Lipase:/59, Differential-Neuts:68.5 %,
   Lymph:24.7 %, Mono:5.3 %, Eos:1.1 %, Lactic Acid:0.6 mmol/L, LDH:312
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   32M with HTN, DM 1 c/b gastroparesis, and CKD in work-up for HD, p/w
   abdominal pain and N/V/D c/w DKA.
   # DKA: He came off of insulin gtt yesterday, declined hospital diet all
   day (was ordered for diabetic/renal diet. [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs, patient now
   on fixed dose and insulin sliding scale
   - Nutrition will see patient when called out to the floor
   - Social work to see patient for poor coping with disease
   - appreciate [**Last Name (un) 276**] input
   # Abdominal Pain: Had spell of [**10-17**] abdominal pain likely related to
   his KFC meal aggravating his gastroparesis and resurgent hyperglycemia.
   Resolved with morphine. EKG normal. House officer educated patient and
   girlfriend yesterday on in-house only diet
   - Continue to monitor
   # Acute-on-chronic RF: Had first HD session [**2-20**], only 1 liter off.
   Will likely have 3^rd session today
   - touch base with HD to confirm schedule
   - Monitor Cr
   # Anemia: Hct near b/l. Likely [**2-9**] to CKD.
   - Cont iron supplement
   - Trend Hct
   # HTN: Poorly controlled. Slightly improved yesterday on new regimen
   (SBPs 140-170s). Metoprolol 100 [**Hospital1 **] per renal recs, -----, no IVF.
   - Continue to monitor
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 HYPERTENSION, BENIGN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 NAUSEA / VOMITING
 DIARRHEA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-02-22 11:40:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: DKA, renal failure/initiation of hemodialysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - dietary indiscretion remains issue - wanted to order pizza last night
   - remains off insulin drip
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2145-2-21**] 02:15 PM
   Morphine Sulfate - [**2145-2-21**] 03:29 PM
   Dextrose 50% - [**2145-2-21**] 03:43 PM
   Metoprolol - [**2145-2-21**] 10:02 PM
   Heparin Sodium (Prophylaxis) - [**2145-2-22**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-22**] 11:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 87 (80 - 93) bpm
   BP: 165/81(100) {140/76(89) - 184/106(124)} mmHg
   RR: 22 (12 - 26) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,595 mL
                                                                    265 mL
   PO:
                                                                  1,280 mL
                                                                    150 mL
   TF:
   IVF:
                                                                  1,302 mL
                                                                    115 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                  1,200 mL
   Urine:
                                                                    600 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                   -935 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   180 K/uL
   44 mg/dL
   11.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   70 mg/dL
   104 mEq/L
   139 mEq/L
   22.5 %
   5.3 K/uL
        [image002.jpg]
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
                             [**2145-2-21**]  12:01 PM
                             [**2145-2-21**]  06:33 PM
                             [**2145-2-22**]  03:32 AM
   WBC
   8.1
   6.0
   7.1
   5.4
   6.2
   5.3
   Hct
   20.8
   21.3
   23.9
   23.0
   23.1
   22.5
   Plt
   [**Telephone/Fax (3) 11612**]90
   206
   180
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   14.5
   11.5
   11.8
   11.6
   11.5
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   134
   436
   169
   98
   44
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Amylase / Lipase:/59, Differential-Neuts:68.5 %,
   Lymph:24.7 %, Mono:5.3 %, Eos:1.1 %, Lactic Acid:0.6 mmol/L, LDH:312
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE I
   -dietary consult seeing patient, educating
   -off insulin drip >24hrs
   -[**Last Name (un) 276**] following
   -transitioned to SC insulin

 DEPRESSION
   -depressed affect

 DIABETIC KETOACIDOSIS (DKA)
   -resolved
 HYPERTENSION, BENIGN
   -on baseline meds
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
   -AV fistula placed
   -dialysis today
   -renal following
 NAUSEA / VOMITING
   -much improved
 DIARRHEA
   -resolved
   Remainder of plan per resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent:

2145-02-22 15:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Upset this morning regarding starting dialysis without breakfast
   - Had anti-HTNives pushed up at 0200, 0300 for SBPs > 190
   - For abdominal pain: Had EKG (no ischemia), morphine
   - For BS 436 had insulin 14 units plus his lantus 14 units, placed on
   insulin gtt, then BS to 130s so [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] the drip was stopped
   - [**Last Name (un) 276**] recs- stop gtt, increase SSI by 2 units (except bedtime
   scale), use dinner scale if pt eats at bedtime
   - SBP again above 200 at 0730
   - Refusing Calcium capsules b/c too big
   - renal recs- Metoprolol 100mg [**Hospital1 **], no extra IVF, HD tomorrow, check
   cxr, given lasix 80mg IV x 1
   - Did not want dinner, then girlfriend requesting to get him [**Hospital1 11622**] at
   2100. Suggested she give him more bland food such as apple sauce or
   [**Location (un) **] crackers instead. Evening fingersticks between 66-219
   - C. Diff sent
   Allergies:
   Penicillins
   "throat swellin
   Watermelon
   Anaphylaxis;
   Almond Oil
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2145-2-21**] 03:29 PM
   Dextrose 50% - [**2145-2-21**] 03:43 PM
   Metoprolol - [**2145-2-21**] 10:02 PM
   Heparin Sodium (Prophylaxis) - [**2145-2-22**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-2-22**] 03:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 90 (80 - 92) bpm
   BP: 167/92(110) {140/76(89) - 184/106(124)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,595 mL
                                                                    451 mL
   PO:
                                                                  1,280 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  1,302 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                  1,200 mL
   Urine:
                                                                    600 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,995 mL
                                                                   -749 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   180 K/uL
   7.4 g/dL
   44 mg/dL
   11.5 mg/dL
   23 mEq/L
   3.6 mEq/L
   70 mg/dL
   104 mEq/L
   139 mEq/L
   22.5 %
   5.3 K/uL
        [image002.jpg]
   Cdiff negative
                             [**2145-2-19**]  12:54 PM
                             [**2145-2-19**]  03:58 PM
                             [**2145-2-19**]  08:40 PM
                             [**2145-2-20**]  01:54 AM
                             [**2145-2-20**]  06:10 AM
                             [**2145-2-20**]  07:15 PM
                             [**2145-2-21**]  04:09 AM
                             [**2145-2-21**]  12:01 PM
                             [**2145-2-21**]  06:33 PM
                             [**2145-2-22**]  03:32 AM
   WBC
   8.1
   6.0
   7.1
   5.4
   6.2
   5.3
   Hct
   20.8
   21.3
   23.9
   23.0
   23.1
   22.5
   Plt
   [**Telephone/Fax (3) 11612**]90
   206
   180
   Cr
   15.3
   15.0
   14.6
   13.0
   14.3
   14.5
   11.5
   11.8
   11.6
   11.5
   Glucose
   [**Telephone/Fax (3) 11600**]04
   80
   134
   436
   169
   98
   44
   Other labs: PT / PTT / INR:11.0/24.0/0.9, ALT / AST:58/27, Alk Phos / T
   Bili:76/0.7, Amylase / Lipase:/59, Differential-Neuts:68.5 %,
   Lymph:24.7 %, Mono:5.3 %, Eos:1.1 %, Lactic Acid:0.6 mmol/L, LDH:312
   IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   32M with HTN, DM 1 c/b gastroparesis, and CKD in work-up for HD, p/w
   abdominal pain and N/V/D c/w DKA.
   # DKA: He came off of insulin gtt yesterday morning (second time),
   declined hospital diet all day (was ordered for diabetic/renal diet),
   then tried to have girlfriend order [**Name2 (NI) 11622**]. [**First Name8 (NamePattern2) **] [**Last Name (un) 276**] recs, patient now
   on fixed dose and insulin sliding scale and encouraging patient to carb
   count and self administer insulin for more autonomy
   - Social work to see patient for poor coping with disease
   - Appreciate [**Last Name (un) 276**] input
   - Given low blood sugar this morning and then BS350+, will recheck
   fingersticks closely this afternoon prior to possible call out
   # Abdominal Pain: Had spell of [**10-17**] abdominal pain likely related to
   his KFC meal aggravating his gastroparesis and resurgent hyperglycemia.
   Resolved with morphine. EKG normal.
   - Nutrition consulted to educate him on appropriate diet
   - Continue to monitor
   # Acute-on-chronic RF: Had first HD session [**2-20**], only 1 liter off.
   Will have 2 more sessions today and tomorrow.
   - touch base with HD to confirm schedule
   - Social Work consult for coping per above
   - Monitor Cr
   # Anemia: Hct 23 back near b/l. Likely [**2-9**] to CKD.
   - Cont iron supplement
   - Trend Hct
   # HTN: Poorly controlled. Slightly improved today on new regimen (SBPs
   140-170s). Metoprolol 100mg [**Hospital1 **] (per renal recs), Amlodipine 10mg
   daily, Hydralazine 50 mg TID
 INEFFECTIVE COPING
 DIABETES MELLITUS (DM), TYPE I
 DEPRESSION
 HYPERTENSION, BENIGN
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 NAUSEA / VOMITING
 DIARRHEA
   ICU Care
   Nutrition:
   Diabetic, renal diet
   Glycemic Control:  Insulin sliding scale with humalog and fixed dose
   glargine
   Lines:
   PICC Line - [**2145-2-19**] 05:02 PM
   Prophylaxis:
   DVT: Heparin SQ
 will discontinue today if patient ambulates
   sufficiently
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU but likely call out this afternoon